US04451479
3-Amino-1-(3,4-dichlorophenyl)-2-pyrazoline
A 2.8 g. amount of sodium metal is dissolved in 200 ml. of absolute ethanol, then 21.35 g. of 3,4-dichlorophenylhydrazine hydrochloride is added followed in 10 minutes by 5.5 g. of acrylonitrile. The reaction mixture is refluxed for 4 hours then most of the ethanol is removed in vacuo. Water is added to separate a solid. The solid is collected by filtration and dried. The solid is dissolved in methanol, treated with activated charcoal and filtered. The filtrate is evaporated to give a solid. The solid is recrystallized from methanol to give the desired product as tan crystals, m.p. 182°-183.5° C.

reactant | sodium | [Na] | Na
reactant | 3,4-dichlorophenylhydrazine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)NN
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(3,4-dichlorophenyl)-2-pyrazoline | NC1=NN(CC1)C1=CC(=C(C=C1)Cl)Cl | C9H9Cl2N3
